US05830915
N-(Methylphenylphosphinyl)-N-(2-phenylethyl)glycine methyl ester (300 mg, 0.905 mmol) is treated with 0.77 mL of NH2OK (1.76M in methanol, solution prepared as described in Fieser and Fieser, Vol. 1, p. 478). The mixture is stirred for 3 hours at room temperature, neutralized with formic acid and concentrated. The crude product is purified by silica gel flash chromatography (85:15 ethyl acetate:ethanol) giving the product with slight impurities. Preparative TLC (90:10 ethyl acetate:ethanol) gives N-hydroxy-2-[[methyl phenylphosphinyl](2-phenylethyl)-amino]-acetamide as a colorless solid: MS-IS m/z 333 [M+H]+, 350 [M+NH4 ]+, 355 [M+Na]+, 371 [M+K]+. (R1 =phenyl ethyl, R2 =H, R3 =methyl, R4 =phenyl).

reactant | N-(Methylphenylphosphinyl)-N-(2-phenylethyl)glycine methyl ester | 0.905 mmol, 300 mg | COC(CN(CCC1=CC=CC=C1)P(=O)(C1=CC=CC=C1)C)=O | C18H22NO3P
reactant | NH2OK | 1.76M, 0.77 mL | NO[K]
reactant | formic acid | C(=O)O | CH2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | N-hydroxy-2-[[methyl phenylphosphinyl](2-phenylethyl)-amino]-acetamide | ONC(CN(CCC1=CC=CC=C1)P(=O)(C1=CC=CC=C1)C)=O | C17H21N2O3P
